US07683185B2
6-(4′-Chloro-biphenyl-4-sulfinyl)-hexanoic acid hydroxyamide (31i).
To a solution of the 6-(4′-chloro-biphenyl-4sulfinyl)-hexanoic acid methyl ester (400 mg, 1.1 mmol) in distilled THF (10 mL) containing 50% aqueous hydroxylamine (0.65 mL, 9.9 mmol) was added at 0° C. a solution of potassium hydroxide in methanol (1.9 mL, 1M, 1.9 mmol) in a dropwise manner. After stirring at 0° C. for 1 h, distilled water (10 mL) was added and the mixture was made neutral by dropwise addition of concentrated hydrochloric acid (10 M) at 0° C. The aqueous solution was extracted with ethyl acetate (2×20 mL) and the combined extracts were washed with brine (40 mL), dried over anhydrous MgSO4, filtered and evaporated to dryness. The residue was recrystallised from acetone to give the title compound (315 mg, 79%) as a white powder, mp 108-110° C.

reactant | 6-(4′-chloro-biphenyl-4sulfinyl)-hexanoic acid methyl ester | 1.1 mmol, 400 mg | COC(CCCCCS(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C19H21ClO3S
reactant | hydroxylamine | 9.9 mmol, 0.65 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 1.9 mmol, 1M, 1.9 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(4′-Chloro-biphenyl-4-sulfinyl)-hexanoic acid hydroxyamide | 315 mg, 79% | ONC(CCCCCS(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C18H20ClNO3S
